US04450155
A solution of 1-(tert-butyloxycarbonyl)-N-methyl-N-(3-phenylpropyl)-L-prolinamide in ethyl acetate-hydrogen chloride (3,9 N, 30 ml.) was stirred at room temperature for one hour, then concentrated, affording N-methyl-N-(3-phenylpropyl)-L-prolinamide hydrochloride as a syrup (2.4 g.).

reactant | 1-(tert-butyloxycarbonyl)-N-methyl-N-(3-phenylpropyl)-L-prolinamide | C(C)(C)(C)OC(=O)N1[C@H](C(=O)N(CCCC2=CC=CC=C2)C)CCC1 | C20H30N2O3
reactant | ethyl acetate hydrogen chloride | 3,9 N, 30 ml | C(C)(=O)OCC.Cl
product | N-methyl-N-(3-phenylpropyl)-L-prolinamide hydrochloride | Cl.CN(C([C@H]1NCCC1)=O)CCCC1=CC=CC=C1 | InChI=1S/C15H22N2O.ClH/c1-17(15(18)14-10-5-11-16-14)12-6-9-13-7-3-2-4-8-13;/h2-4,7-8,14,16H,5-6,9-12H2,1H3;1H/t14-;/m0./s1
